US09056874B2
a) (±)-2-((3-Chloro-5-methoxy-7-methyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of (±)-2-((3-chloro-5-methoxy-7-methyl-1H-indol-4-yl)(hydroxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-((3-chloro-5-methoxy-7-methyl-1H-indol-4-yl)(hydroxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile (0.2 g, 0.402 mmol) was dissolved in THF (4.02 mL) and treated with TBAF (1M in THF, 4.02 mL, 4.02 mmol) and ethylenediamine (0.272 mL, 4.02 mmol) and heated at 60° C. The reaction was cooled to room temperature, and treated with 10 mL of a saturated aq. solution of ammonium chloride and then diluted with EtOAc. The layers were separated and the organic layer was washed with water (3×100 mL). The organic extracts were combined, dried over magnesium sulfate, filtered and concentrated. The resulting residue was purified via FCC (0-100% EtOAc in heptanes) to obtain the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.71 (d, J=6.57 Hz, 1H) 11.28 (br. s., 1H) 7.87 (d, J=6.19 Hz, 1H) 7.61 (m) 7.40-7.50 (m, 2H) 6.94-7.12 (m, 1H) 6.79 (s, 1H) 6.02-6.20 (m, 1H) 3.42-3.50 (m, 3H) 2.45 (s, 3H). HRMS calcd. for C19H16ClN4O2 (M+H)+ 367.0957. found 367.096.

reactant | (±)-2-((3-chloro-5-methoxy-7-methyl-1H-indol-4-yl)(hydroxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | ClC1=CNC2=C(C=C(C(=C12)C(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N)O)OC)C | C25H29ClN4O3Si
reactant | (±)-2-((3-chloro-5-methoxy-7-methyl-1H-indol-4-yl)(hydroxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | 0.402 mmol, 0.2 g | ClC1=CNC2=C(C=C(C(=C12)C(C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N)O)OC)C | C25H29ClN4O3Si
reactant | TBAF | 4.02 mmol, 1M, 4.02 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | ethylenediamine | 4.02 mmol, 0.272 mL | C(CN)N | C2H8N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 4.02 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-2-((3-Chloro-5-methoxy-7-methyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | ClC1=CNC2=C(C=C(C(=C12)C(C1=NC2=C(N1)C=CC(=C2)C#N)O)OC)C | C19H15ClN4O2
